US08217069B2
9-[2-Chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-2-(1-hydroxyethyl)-6-methoxy-7,9-dihydro-8H-purin-8-one
To a solution of 2-(1-acetyloxyethyl)-9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (0.33 g), which was prepared in a similar manner to that described in Example 171 using 2-(1-acetyloxyethyl)-4-chloro-6-methoxy-5-nitropyrimidine and ethyl 2-[4-amino-5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)phenoxy]acetate instead of 4-chloro-6-methoxy-2-methoxymethyl-5-nitropyrimidine and ethyl 2-[4-amino-5-chloro-2-(2-fluoro-6-methoxy-benzyloxy)phenoxy]acetate, respectively, in ethanol (2 mL)-tetrahydrofuran (3 mL) was added sodium ethoxide (20% ethanol solution, 0.5 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/9) to give the title compound (0.17 g)

reactant | 2-(1-acetyloxyethyl)-9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.33 g | C(C)(=O)OC(C)C1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OCC(=O)OCC)Cl)=O)OC | C28H27ClF2N4O9
reactant | 2-(1-acetyloxyethyl)-4-chloro-6-methoxy-5-nitropyrimidine | C(C)(=O)OC(C)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])OC | C9H10ClN3O5
reactant | ethyl 2-[4-amino-5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)phenoxy]acetate | NC1=CC(=C(OCC(=O)OCC)C=C1Cl)OCC1=C(C(=CC=C1OC)F)F | C18H18ClF2NO5
reactant | ethyl 2-[4-amino-5-chloro-2-(2-fluoro-6-methoxy-benzyloxy)phenoxy]acetate | NC1=CC(=C(OCC(=O)OCC)C=C1Cl)OCC1=C(C=CC=C1OC)F | C18H19ClFNO5
reactant | sodium ethoxide | 0.5 mL | [O-]CC.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 9-[2-Chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-2-(1-hydroxyethyl)-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.17 g | ClC1=C(C=C(C(=C1)OCC(=O)OCC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C(C)O | C26H25ClF2N4O8
